US07622463B2
2-Chloro-9-cyclopentyl-8,9-dihydro-5-methyl-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one (150 mg, 0.536 mmol) in ethanol (2.25 ml) and water (9 ml) was treated with conc. HCl (0.088 ml) and 4-amino-3-methoxy benzoic acid (134 mg, 0.804 mmol). The mixture was stirred at 90° C. 24 hours, concentrated and the residue triturated with methanol/ether, filtered and the solid washed with ethanol then ether to give 4-(9-cyclopentyl-6,7,8,9-tetrahydro-5-methyl-6-oxo-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid as a buff powder (185.5 mg, 84%). NMR DMSO D6 1.51-1.79 (6H, m), 1.82-1.93 (2H, m), 2.70-2.75 (2H m), 3.18 (3H, s), 3.72-3.78 (2H, m), 3.98 (3H, s), 4.81-4.93 (1H, m), 7.57-7.64 (2H, m), 8.15-8.22 (2H, m), 9.46 (1H, br s); HPLC rt(min): 6.57.

reactant | 2-Chloro-9-cyclopentyl-8,9-dihydro-5-methyl-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one | 0.536 mmol, 150 mg | ClC=1N=CC2=C(N(CCC(N2C)=O)C2CCCC2)N1 | C13H17ClN4O
reactant | HCl | 0.088 ml | Cl | ClH
reactant | 4-amino-3-methoxy benzoic acid | 0.804 mmol, 134 mg | NC1=C(C=C(C(=O)O)C=C1)OC | C8H9NO3
solvent | ethanol | 2.25 ml | C(C)O | C2H6O
solvent | water | 9 ml | O | H2O
product | 4-(9-cyclopentyl-6,7,8,9-tetrahydro-5-methyl-6-oxo-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid | C1(CCCC1)N1C2=C(N(C(CC1)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)OC | C21H25N5O4
